US07816552B2
2-{4-[(2,4-Dioxo-1,3-thiazolidin-5-y)methyl]phenoxy}-N-(5-methoxy-2-nitrophenyl)-N-methylacetamide (Step 3) (Exemplification compound number: 1)
To a suspended solution of 4-[(2,4-dioxothiazolidin-5-yl)methyl]phenoxyacetic acid (8.00 g) in acetonitrile (64 ml) were added thionyl chloride (3.38 g) and dimethylformamide (3.2 ml) at room temperature, and the resulting mixture was stirred successively at 25° C. for 30 minutes and at 40° C. for 30 minutes. Subsequently, to the reaction mixture were added successively N-(5-methoxy-2-nitrophenyl)-N-methylamine (3.84 g), N,N-dimethylaminopyridine (0.32 g) and acetonitrile (16 ml), and the resulting mixture was stirred at the same temperature for 1 hour. After cooling the reaction mixture to 0° C., water (32 ml) was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate (80 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate twice (16 ml for each) and evaporated to dryness to afford the title compound (9.67 g, yield: 100%) as an orange-colored amorphous solid.

reactant | 4-[(2,4-dioxothiazolidin-5-yl)methyl]phenoxyacetic acid | 8.00 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)O)C=C1 | C12H11NO5S
reactant | thionyl chloride | 3.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 3.2 ml | CN(C=O)C | C3H7NO
reactant | N-(5-methoxy-2-nitrophenyl)-N-methylamine | 3.84 g | COC=1C=CC(=C(C1)NC)[N+](=O)[O-] | C8H10N2O3
solvent | acetonitrile | 64 ml | C(C)#N | C2H3N
solvent | acetonitrile | 16 ml | C(C)#N | C2H3N
solvent | water | 32 ml | O | H2O
product | 2-{4-[(2,4-Dioxo-1,3-thiazolidin-5-y)methyl]phenoxy}-N-(5-methoxy-2-nitrophenyl)-N-methylacetamide | 9.67 g, yield: 100% | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)N(C)C2=C(C=CC(=C2)OC)[N+](=O)[O-])C=C1 | C20H19N3O7S
